US06080870
Step 6: Preparation of 1-[N-(1-(4-cyanobenzyl)-5-imidazolylmethyl)amino]-3-methoxy-4-phenylbenzene
To a solution of 1-amino-3-methoxy-4-phenylbenzene in 1,2-dichloroethane at 0° C. was added 4A powdered molecular sieves and sodium triacetoxyborohydride. 1-(4-Cyanobenzyl)-5-imidazole-carboxaldehyde was added, followed by 5 drops of acetic acid. The cooling bath was removed after 5 hours, and the reaction was stirred for another 15 hours. The reaction was poured into ethyl acetate and water. The organic layer was extracted with sat. aq. NaHCO3 solution and brine, then dried (Na2SO4) and concentrated in vacuo to provide the product.

reactant | 1-amino-3-methoxy-4-phenylbenzene | NC1=CC(=C(C=C1)C1=CC=CC=C1)OC | C13H13NO
reactant | sodium triacetoxyborohydride | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1-(4-Cyanobenzyl)-5-imidazole-carboxaldehyde | C(#N)C1=CC=C(CN2C=NC=C2C=O)C=C1 | C12H9N3O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
catalyst | acetic acid | 5 drops | C(C)(=O)O | C2H4O2
product | 1-[N-(1-(4-cyanobenzyl)-5-imidazolylmethyl)amino]-3-methoxy-4-phenylbenzene | C(#N)C1=CC=C(CN2C=NC=C2CNC2=CC(=C(C=C2)C2=CC=CC=C2)OC)C=C1 | C25H22N4O
